US07981879B2
Step 3: 2-[1-amino-2-(benzyloxy)ethyl]-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide
To a methanolic solution of methyl 5-(benzoyloxy)-2-{2-(benzyloxy)-1-[(tert butoxycarbonyl)amino]ethyl}-6-hydroxypyrimidine-4-carboxylate prepared as described in Step 2, 4-fluorobenzylamine (2.15 eq.) was added. The resulting solution was refluxed for 24 hours (100% conversion by LC-MS). After cooling to room temperature, the crude was concentrated under reduced pressure and the solvent switched to CH2Cl2. To the solution, trifluoroacetic acid was added and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated and diethyl ether (100 mL) was added. The resulting slurry was stirred for 1 hour at room temperature and the product was collected by filtration. The cake was washed with cold diethyl ether and dried under reduced pressure to afford title compound as trifluoroacetic salt. MS (ES) C21H21FN4O4 requires 412. Found: 413.

reactant | methyl 5-(benzoyloxy)-2-{2-(benzyloxy)-1-[(tert butoxycarbonyl)amino]ethyl}-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C(=O)OC | C27H29N3O8
reactant | 4-fluorobenzylamine | 2.15 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
product | 2-[1-amino-2-(benzyloxy)ethyl]-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide | NC(COCC1=CC=CC=C1)C1=NC(=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)O | C21H21FN4O4
